US06235739B1
Using the same procedure as in Example 1(3), 3-(3-butoxy-4-methoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester, instead of 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester, was used to obtain a yellow solid of the above-described compound via 3-(3-butoxy-4-methoxyphenyl)-4,4-diethoxybutyric acid (yield 47.5%).

reactant | 3-(3-butoxy-4-methoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OCCCC)C(=O)OCC)=O | C24H38O8
reactant | 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OC)C(=O)OCC)=O | C21H32O8
product | 3-(3-butoxy-4-methoxyphenyl)-4,4-diethoxybutyric acid | yield 47.5% | C(CCC)OC=1C=C(C=CC1OC)C(CC(=O)O)C(OCC)OCC | C19H30O6
